US07592477B2
Step b) Formation of N-dodecyl-4-(1-{[4-(trifluoromethyl)benzyl]amino}ethyl)benzamide
The same procedure as employed in the preparation of Example 223 (step b) but using 4-acetyl-N-dodecylbenzamide and 4-(trifluoromethyl)benzylamine gave the title compound as a colorless oil (71%). M−(LC/MS(ESI)): 489.1; M+(LC/MS(ESI)): 491.5. HPLC (Condition A), Rt: 5.51 min (HPLC purity: 50.0%).

reactant | 4-acetyl-N-dodecylbenzamide | C(C)(=O)C1=CC=C(C(=O)NCCCCCCCCCCCC)C=C1 | C21H33NO2
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | N-dodecyl-4-(1-{[4-(trifluoromethyl)benzyl]amino}ethyl)benzamide | 71% | C(CCCCCCCCCCC)NC(C1=CC=C(C=C1)C(C)NCC1=CC=C(C=C1)C(F)(F)F)=O | C29H41F3N2O
